US05101048
Preparation of 2,3,4-tri-O-acetyl-5-thio-α-D-xylopyranose
22 ml (0.2 mol) of benzylamine are added under an inert atmosphere to a solution of 15 g (44.8.10-3 mol) of 1,2,3,4-tetra-O-acetyl-5-thio-D-xylopyranose in 450 ml of ether. After 7 hours at room temperature (15°-25° C.), the reaction mixture is concentrated under reduced pressure and the residue is dissolved in methylene chloride and washed with a 1N solution of hydrochloric acid, a saturated solution of ammonium chloride and then water. The solution obtained is dried over sodium sulfate and the solvent is evaporated off under reduced pressure. 6.2 g (yield: 47%) of the expected product are obtained after purification by chromatography on silica gel using a hexane/ethyl acetate mixture (3/2 v/v) as the eluent, and crystallization from an ethyl acetate/hexane mixture, said product having the following physical characteristics:

reactant | benzylamine | 0.2 mol, 22 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | 1,2,3,4-tetra-O-acetyl-5-thio-D-xylopyranose | 15 g | C(C)(=O)OC1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)CS1 | C13H18O8S
solvent | ether | 450 ml | CCOCC | C4H10O
product | 2,3,4-tri-O-acetyl-5-thio-α-D-xylopyranose | 6.2 g, yield: 47% | C(C)(=O)O[C@H]1[C@@H](O)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C11H16O7S
